US06518423B1
10H-Pyrazino[2,3-b][1,4]benzothiazine-8-acetic acid
4.7 g of 10H-pyrazino[2,3-b][1,4]benzothiazine-8-acetonitrile was dissolved in 100 ml of ethanol. After adding 2.8 g of potassium hydroxide, the resulting mixture was heated under reflux for 16 hours. After distilling off the ethanol, water was added and the mixture was made weakly acidic with dilute hydrochloric acid followed by the extraction with ethyl acetate and dichloromethane. The organic layer was dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, 3.85 g of the title compound was obtained as yellow crystals.

reactant | 10H-pyrazino[2,3-b][1,4]benzothiazine-8-acetonitrile | 4.7 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CC#N | C12H8N4S
reactant | potassium hydroxide | 2.8 g | [OH-].[K+]
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 10H-Pyrazino[2,3-b][1,4]benzothiazine-8-acetic acid | 3.85 g | N1=CC=NC=2SC3=C(NC21)C=C(C=C3)CC(=O)O | C12H9N3O2S
